;Spice netlist for an inverter and a capacitor
simulator lang=spectre

include "~/ECEN454/Lab1/spectre/model18.spi"
include "~/ECEN454/Lab1/spectre/cell18.spi"

vgnd (gnd 0) vsource dc=0
vvdd (vdd 0) vsource dc=1.8
vvd (NAND_B 0) vsource dc=1.8

acinput (NAND_A 0) vsource dc=0 mag=1

R1 (NAND_A NAND_A1) resistor r=0

X1 (NAND_A1 NAND_B NAND_out vdd gnd) NAND wp=0.6u lp=0.2u wn=0.3u ln=0.2u 

Freq ac start=1e+1 stop=1e+9
save R1:currents

