;Spice netlist for an inverter and a capacitor
simulator lang=spectre

include "~/ecen454_714/cadence/cellcharacs/model18.spi"
include "~/ecen454_714/cadence/cellcharacs/cell18.spi"

vgnd (gnd 0) vsource dc=0
vvdd (vdd 0) vsource dc=1.8
vvd (XOR_B 0) vsource dc=1.8

vpwl (XOR_A 0) vsource type=pwl wave=[0n 0 1n 0 1.2n 1.8 4n 1.8 4.2n 0]

X1 (XOR_A XOR_B XOR_out vdd gnd) XOR wp=0.9u lp=0.1u wn=0.4u ln=0.2u 

;R1 (XOR_out 1) resistor r=1
C1 (XOR_out 0) capacitor c=100f

TransientAnalysis tran start=0 stop=10ns step=1ps
save XOR_A XOR_out

